* Z:\mnt\design.r\spice\examples\2862-1.asc
V1 N001 0 3.3
C1 N006 0 5p Rpar=1Meg
V2 N002 COM 3.3
V3 N012 0 PULSE(0 3.3 .1u 4n 4n 42n 100n 10)
V4 COM 0 SINE(0 20 1Meg)
L1 N004 N003 50n Rser=10
C2 N003 N010 100p
C3 N004 N013 100p
C4 N005 N011 100p
L2 N005 N004 50n Rser=10
L3 N013 N010 50n Rser=10
L4 N011 N013 50n Rser=10
V5 N008 0 PWL(0 3.3 1.2u 3.3 +10n 0)
V6 N009 COM PWL(0 0 1.2u 0 +10n 3.3)
V7 N014 COM PULSE(0 3.3 1.5u 4n 4n 42n 100n 10)
C5 N007 COM 5p Rpar=1Meg
XU1 N006 N008 N008 N012 MP_01 0 MP_02 MP_03 MP_04 N010 N003 N001 LTC2862-1
XU2 N007 N009 N009 N014 MP_05 COM MP_06 MP_07 MP_08 N011 N005 N002 LTC2862-1
.tran 3u
* Twisted pair
* Forward transmission from DIF to ROF  followed by\nreverse transmission from DIR to ROR
.lib LTC2862-1.lib
.backanno
.end
